US07713994B2
4-Aminomethyl-4′-fluoro-biphenyl-2-ol
Following the same procedure for the preparation of 4-Aminomethyl-biphenyl-2-ol, the title compound is prepared from 4-Azidomethyl-4′-fluoro-biphenyl-2-ol (crude material from the previous step) in 54% yield (over 4 steps). MS (ESI): 218 (M+1)+1.

reactant | 4-Aminomethyl-biphenyl-2-ol | NCC=1C=C(C(=CC1)C1=CC=CC=C1)O | C13H13NO
reactant | 4-Azidomethyl-4′-fluoro-biphenyl-2-ol | N(=[N+]=[N-])CC=1C=C(C(=CC1)C1=CC=C(C=C1)F)O | C13H10FN3O
product | 4-Aminomethyl-4′-fluoro-biphenyl-2-ol | 54% yield | NCC=1C=C(C(=CC1)C1=CC=C(C=C1)F)O | C13H12FNO
